US06479471B1
Diethychlorophosphite (15.7 g, 0.1 mol) in 50 mL of dry diethyl ether was cooled to 5° C. under an atmosphere of nitrogen. Phenylpropylmagnesium bromide (100 mL, 0.1 mol, 1.0 M solution of in Et2O) was added dropwise over 2 hours while maintaining a temperature between 0-10° C. A thick white slurry formed and was stirred an additional 30 minutes. The mixture was filtered under a nitrogen atmosphere and the filtrate evaporated under reduced pressure to give a clear and colorless liquid. To the liquid was added 20 mL of water followed by 0.5 ml of concentrated hydrochloric acid. An exothermic reaction was observed and stirring continued for 20 minutes followed by extraction with ethyl acetate. The organics were combined, washed with brine, dried (MgSO4) and evaporated. To the clear liquid was added sodium hydroxide (40 mL, 2.0 M NaOH), the resulting solution stirred for 1 hour and then washed with diethyl ether. The aqueous layer was acidified to pH 1.0 with concentrated hydrochloric acid and extracted twice with ethyl acetate. The organics were combined, dried (MgSO4) and evaporated to give 3-phenylpropylphosphinic acid (1,R=CH2CH2CH2Ph,R1=H) (9.8 g, 53%) as a clear and colorless oil.

reactant | Diethychlorophosphite | 0.1 mol, 15.7 g | C(C)OP(OCC)Cl | C4H10ClO2P
reactant | Phenylpropylmagnesium bromide | 0.1 mol, 1.0 M, 100 mL | C1(=CC=CC=C1)CCC[Mg]Br
reactant | water | 20 mL | O | H2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 3-phenylpropylphosphinic acid | 9.8 g, 53% | C1(=CC=CC=C1)CCCP(O)=O | C9H13O2P
